US05290934
Separately, two drops of carbon tetrachloride are added to a solution of metallic magnesium (0.4 g) in absolute ethanol (0.9 ml). When the reaction starts, a mixture of diethyl malonate (2.6 ml), absolute ethanol (1.6 ml) and anhydrous toluene (6 ml) is added dropwise below 60° C. After stirring at 60° C. for 1 hour, the reaction mixture is cooled to 0° C. and thereto a solution of 2-methyl-3,4,6-trifluorobenzoyl chloride prepared above in toluene (5 ml) is added dropwise. After stirring for 30 minutes, a mixture of conc. sulfuric acid (0.4 ml) and water (6 ml) is added and the mixture is extracted with diethyl ether, and the extract is dried over magnesium sulfate and concentrated to give diethyl 2-methyl-3,4,6-trifluorobenzoylmalonate (5.2 g).

reactant | magnesium | 0.4 g | [Mg] | Mg
reactant | diethyl malonate | 2.6 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2-methyl-3,4,6-trifluorobenzoyl chloride | CC1=C(C(=O)Cl)C(=CC(=C1F)F)F | C8H4ClF3O
reactant | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
catalyst | carbon tetrachloride | two drops | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 0.9 ml | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.6 ml | C(C)O | C2H6O
solvent | water | 6 ml | O | H2O
product | diethyl 2-methyl-3,4,6-trifluorobenzoylmalonate | 5.2 g | CC1=C(C(=O)C(C(=O)OCC)C(=O)OCC)C(=CC(=C1F)F)F | C15H15F3O5
